US07238716B2
A mixture of 2-benzyloxy-5-hydroxybenzaldehyde (8.93 g), ethyl iodide (7.31 g), anhydrous potassium carbonate (5.40 g) and N,N-dimethylformamide (50 mL) was stirred at room temperature for 15 hrs. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The obtained residue was subjected to silica gel column chromatography to give 2-benzyloxy-5-ethoxybenzaldehyde as a colorless oil (9.25 g, 92%) from a fraction eluted with ethyl acetate-hexane (1:9, v/v).

reactant | 2-benzyloxy-5-hydroxybenzaldehyde | 8.93 g | C(C1=CC=CC=C1)OC1=C(C=O)C=C(C=C1)O | C14H12O3
reactant | ethyl iodide | 7.31 g | C(C)I | C2H5I
reactant | potassium carbonate | 5.40 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-benzyloxy-5-ethoxybenzaldehyde | 9.25 g, 92% | C(C1=CC=CC=C1)OC1=C(C=O)C=C(C=C1)OCC | C16H16O3
